US07312241B2
(3-Benzyloxyphenyl)-(3,5-dimethoxyphenyl)methanone (10.66 g, 30.60 mmol), cyanomethylphosphonic acid diethyl ester (9.63 ml, 61.19 mmol) in anhydrous THF (10 ml), and lithium bis (trimethylsilyl)amide (1.0 M solution in THF, 61.20 ml, 61.19 mmol) were treated in the same manner as described above for the synthesis of 3-(2,3-dihydrobenzo[1,4]dioxin-6-yl)-3-(3,5-dimethoxyphenyl)acrylonitrile. The crude material was purified via flash column chromatography (5% EtOAc in hexane gradient to 30% EtOAc in hexane in about 40 min.) to give 3-(3-benzyloxy-phenyl)-3-(3,5-dimethoxy-phenyl)-acrylonitrile as a white solid (9.82 g, 86%): 1HNMR (DMSO-d6) 7.47-7.31 (m, 6H, Ar), 7.20-6.88 (m, 3H, Ar), 6.66-6.62 (2ts, 1H, Ar), 6.46 (d, J=2 Hz, 2H, Ar), 6.40 (s, 0.5H, double bond proton of one isomer), 6.38 (s, 0.5H, double bond proton of the other isomer), 5.12 (s, 1H, half CH2), 5.11 (s, 1H, half CH2), 3.76 (s, 3H, OCH3), 3.73 (s, 3H, OCH3); 13C NMR(DMSO-d6) δ 161.2, 160.4, 158.4, 158.2, 139.6, 138.9, 138.8, 138.3, 136.7, 129.8, 128.4, 127.9, 127.8, 121.5, 120.8, 117.9, 117.9, 116.8, 116.0, 115.5, 114.4, 107.1, 106.5, 101.9, 101.1, 96.8, 96.5, 69.4, 55.4,53.6; Anal. Calcd. For C24H21NO3: C, 77.61; H, 5.70; N, 3.77. Found: C, 77.39; H, 5.70; N, 3.69.

reactant | (3-Benzyloxyphenyl)-(3,5-dimethoxyphenyl)methanone | 30.60 mmol, 10.66 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C(=O)C1=CC(=CC(=C1)OC)OC | C22H20O4
reactant | cyanomethylphosphonic acid diethyl ester | 61.19 mmol, 9.63 ml | C(C)OP(OCC)(=O)CC#N | C6H12NO3P
reactant | lithium bis (trimethylsilyl)amide | 61.19 mmol, 1.0 M, 61.20 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 3-(2,3-dihydrobenzo[1,4]dioxin-6-yl)-3-(3,5-dimethoxyphenyl)acrylonitrile | O1CCOC2=C1C=CC(=C2)C(=CC#N)C2=CC(=CC(=C2)OC)OC | C19H17NO4
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 3-(3-benzyloxy-phenyl)-3-(3,5-dimethoxy-phenyl)-acrylonitrile | 9.82 g, 86% | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C(=CC#N)C1=CC(=CC(=C1)OC)OC | C24H21NO3
